US08859505B2
[1-[1-(Carbamoyl-hydroxy-methyl)-3-fluoro-cyclobutylcarbamoyl]-2-(1-fluoro-cyclopentyl)-ethyl]-carbamic acid ethyl ester (C5-a)
Diisopropylethylamine (0.087 mL, 0.5 mmol) and ethyl chloroformate (0.024 mL, 0.25 mmol) were added to a stirred solution of the amine A1-b, 2-amino-N-[1-(carbamoyl-hydroxy-methyl)-3-fluoro-cyclobutyl]-3-(1-fluorocyclopentyl)-propionamide (0.23 mmol) in DMF. After 15 min sat. aq. NaHCO3 and DCM were added and the organic layer was collected and concentrated and purified on flash silica gel column using DCM-MeOH 0-10% which gave the title compound (62 mg) [M+1]+391.9.

reactant | Diisopropylethylamine | 0.5 mmol, 0.087 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 0.25 mmol, 0.024 mL | ClC(=O)OCC | C3H5ClO2
reactant | 2-amino-N-[1-(carbamoyl-hydroxy-methyl)-3-fluoro-cyclobutyl]-3-(1-fluorocyclopentyl)-propionamide | 0.23 mmol | NC(C(=O)NC1(CC(C1)F)C(O)C(N)=O)CC1(CCCC1)F | C14H23F2N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [1-[1-(Carbamoyl-hydroxy-methyl)-3-fluoro-cyclobutylcarbamoyl]-2-(1-fluoro-cyclopentyl)-ethyl]-carbamic acid ethyl ester | 62 mg | C(C)OC(NC(CC1(CCCC1)F)C(NC1(CC(C1)F)C(O)C(N)=O)=O)=O | C17H27F2N3O5
